US04582821
Boc-LeuCHN2 (4.40 g, 17.2 mmoles) was dissolved in 50 mL of ether and cooled to 0°; anhydrous 3.45N ethanolic:HCl (5.22 mL, 18.0 mmoles) was added. After about 5 minutes, the resulting solution was washed with cold water, saturated aqueous sodium chloride, and was dried over anhydrous sodium sulfate. Solvent was evaporated to yield crystalline Boc-LeuCH2Cl. Product was isolated and washed with petroleum ether to yield 0.84 g (mp 65°-66°) in a first crop and 1.94 g (mp 64°-65.5°) in a second crop isolated from cold petroleum ether.

reactant | Boc-LeuCHN2 | 17.2 mmoles, 4.40 g | N([C@@H](CC(C)C)C(=O)C=[N+]=[N-])C(=O)OC(C)(C)C | C12H21N3O3
reactant | HCl | 18.0 mmoles, 5.22 mL | Cl | ClH
solvent | ether | 50 mL | CCOCC | C4H10O
product | Boc-LeuCH2Cl | N([C@@H](CC(C)C)C(=O)CCl)C(=O)OC(C)(C)C | C12H22ClNO3
